US05053509
Cyclopropylamine (4.12 g) is added in the course of 5 minutes to a solution, maintained at a temperature in the region of 20° C., of ethyl 2-(2-chloro-6,7,8-trifluoro-3-quinolinecarbonyl)-3-(dimethylamino)acrylate (7 g) in trichloromethane (100 cc), and the mixture is stirred for a further 4 hours at the same temperature. The reaction mixture is concentrated under reduced pressure (20 kPa) at approximately 50° C. The oily residue obtained is taken up with ethanol (100 cc) and DBU (3 g). The mixture is heated to 80° C. and kept stirring at the same temperature for 1 hour and a half. After cooling to approximately 20° C., the insoluble matter is drained and washed with ethanol (2×30 cc) and isopropyl ether (2×30 cc). 1-Cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (4.5 g) is obtained in the form of a colorless solid, m.p. 260° C.

reactant | Cyclopropylamine | 4.12 g | C1(CC1)N | C3H7N
reactant | ethyl 2-(2-chloro-6,7,8-trifluoro-3-quinolinecarbonyl)-3-(dimethylamino)acrylate | 7 g | ClC1=NC2=C(C(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F)F | C17H14ClF3N2O3
reactant | ethanol | 100 cc | C(C)O | C2H6O
reactant | DBU | 3 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | trichloromethane | 100 cc | ClC(Cl)Cl | CHCl3
product | 1-Cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 4.5 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)F)F)=O)C(=O)OCC | C18H13F3N2O3
